US06620811B2
N-(4-Methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-2-(tetrahydro-pyran-4-yl)-isonicotinamide
From 2-bromo-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isonicotinamide with tri-n-butyl-(3,6-dihydro-2H-pyrin-4-yl)-stannane, bis(triphenylphosphine)palladium(II) chloride, triphenylphosphine, lithium chloride and 2,6-di-tert-butyl-4-methylphenol in DMF. Then hydrogenation using palladium on charcoal in methanol and dichloromethane. ES-MS m/e (%): 477 (M+Na+, 16), 455 (M+H+, 100).

reactant | 2-bromo-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isonicotinamide | BrC=1C=C(C(=O)NC=2SC3=C(N2)C(=CC=C3N3CCOCC3)OC)C=CN1 | C18H17BrN4O3S
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | lithium chloride | [Cl-].[Li+]
reactant | 2,6-di-tert-butyl-4-methylphenol | C(C)(C)(C)C1=C(C(=CC(=C1)C)C(C)(C)C)O | C15H24O
solvent | DMF | CN(C)C=O | C3H7NO
catalyst | palladium on charcoal | [Pd] | Pd
solvent | methanol | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | bis(triphenylphosphine)palladium(II) chloride | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | N-(4-Methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-2-(tetrahydro-pyran-4-yl)-isonicotinamide | COC1=CC=C(C2=C1N=C(S2)NC(C2=CC(=NC=C2)C2CCOCC2)=O)N2CCOCC2 | C23H26N4O4S
